US06191124B1
A suspension of LiAlH4 (2.1 g) in THF (100 mL) was treated with 5,6,7,8-Tetrahydro-imidazo[2,1-b]benzothiazole-3-carboxylic acid ethyl ester (Formula F-4) (5.6 g) and reacted at 25° C. for 5.5 hours. The reaction was quenched by serial additions of water and 15% sodium hydroxide and the mixture was filtered. Evaporation of the filtrate gave 5,6,7,8-Tetrahydro-imidazo[2,1-b]benzothiazole-3-methanol (Formula F-5) (4.11 g), m.p. 182-183° after crystallization from iso-propanol.

reactant | LiAlH4 | 2.1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5,6,7,8-Tetrahydro-imidazo[2,1-b]benzothiazole-3-carboxylic acid ethyl ester | 5.6 g | C(C)OC(=O)C1=CN=C2SC3=C(N21)CCCC3 | C12H14N2O2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5,6,7,8-Tetrahydro-imidazo[2,1-b]benzothiazole-3-methanol | 4.11 g | N=1C=C(N2C1SC1=C2CCCC1)CO | C10H12N2OS
